US08071768B2
d. 4-(6-Iodo-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide
A solution of impure 6-iodo-4-piperidin-4-yl-quinazoline (4.00 g, “11.8 mmol”), as prepared in the preceding step, in CHCl3 (20 mL) was treated with (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester (4.10 g, 13.0 mmol), prepared as described in Example 1a, in one portion at rt under air. DIEA (2.15 mL, 13.0 mmol) was then added in one portion, and residual nitrophenyl ester and DIEA was transferred to the reaction with additional CHCl3 (20 mL). After 8 h rt stirring, the reaction was washed in succession with 1 M NaH2PO4 (50 mL) and 2 M K2CO3 (1×50 mL). The organic phase was filtered, the filter cake was washed with DCM (2×10 mL), and the combined filtrates were dried (Na2SO4) and concentrated under reduced pressure. Flash chromatography of the residue (1:2 hex/EtOAc) afforded the title compound as a beige foam (2.58 g, 42%). 1H-NMR (300 MHz, CDCl3) δ 9.26 (s, 1H), 8.52 (d, 1H), 8.13 (dd, 1H), 7.80 (d, 1H), 7.25 (m, 2H), 6.83 (m, 2H), 6.33 (br s, 1H), 4.48 (heptet, 1H), 4.32-4.22 (m, 2H), 3.68 (tt, 1H), 3.17 (td, 2H), 2.21-1.92 (m, 4H), 1.32 (d, 6H). LC/MS (ESI): calcd mass 516.1, found 517.2 (MH)+.

reactant | 6-iodo-4-piperidin-4-yl-quinazoline | 11.8 mmol, 4.00 g | IC=1C=C2C(=NC=NC2=CC1)C1CCNCC1 | C13H14IN3
reactant | (4-isopropoxy-phenyl)-carbamic acid 4-nitro-phenyl ester | 13.0 mmol, 4.10 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)OC(C)C)=O | C16H16N2O5
reactant | DIEA | 13.0 mmol, 2.15 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(6-Iodo-quinazolin-4-yl)-piperidine-1-carboxylic acid (4-isopropoxy-phenyl)-amide | 2.58 g, 42% | C(C)(C)OC1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC=C(C=C12)I | C23H25IN4O2
